data/preprocessed/USPTO_50_suzuki.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CC1=CC=CC=C1B(O)O.COC1=CC(I)=CC=C1C(=O)N1CC2=CC=CN2CC2=C1C=CC=C2.O=C([O-])[O-].[Na+].[Na+].[Pd:2]|(1, 2)",1,6,reaction_22,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:1])C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CC1=CC=CC=C1B(O)O.COC1=CC(I)=CC=C1C(=O)N1CC2=CC=CN2CC2=CC=CC=C21.O=C([O-])[O-].[Na+].[Na+]|(2, 1)",1,5,reaction_22,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:3][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CC1=CC=CC=C1B(O)O.COC1=C[C:2]([I:1])=CC=C1C(=O)N1CC2=CC=CN2CC2=CC=CC=C21.O=C([O-])[O-].[Na+].[Na+]|(3, 2);((2, 1), 3)",1,4,reaction_22,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CC1=CC=CC=C1B(O)O.COC1=C[C]([Pd-2:3]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[I:4])=CC=C1C(=O)N1CC2=CC=CN2CC2=CC=CC=C21.O=C([O-])[O-:1].[Na+:2].[Na+]|(1, 3);((3, 4), 2)",1,3,reaction_22,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CC1=CC=CC=[C:2]1[B:1](O)O.COC1=C[C]([Pd-2:3]([O]C(=O)[O-])([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=CC=C1C(=O)N1CC2=CC=CN2CC2=CC=CC=C21.[Na+].[Na][I]|(3, 2);((2, 1), 3)",1,2,reaction_22,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COC1=C[C]([Pd-2:2]([C]2=CC=CC=C2C)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([B:1](O)O)[O:3]C(=O)[O-])=CC=C1C(=O)N1CC2=CC=CN2CC2=CC=CC=C21.[Na+].[Na][I]|((2, 3), 1);((1, 2), 2)",1,1,reaction_22,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COC1=C[C:1]([Pd-2:2]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:3]2=CC=CC=C2C)=CC=C1C(=O)N1CC2=CC=CN2CC2=CC=CC=C21.O=C([O-])OB(O)O.[Na+].[Na][I]|((2, 3), 1);((1, 2), 2)",1,0,reaction_22,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C=C(C)B(O)O.CC(C)C1=CC(C#N)=CC2=C1OC(C1=CC=C(C(=O)NCC3CCN(C4=CC=NC(Cl)=N4)CC3)C=C1)=N2.CC1=CC=CC=C1.CCO.O.O=C([O-])[O-].[Na+].[Na+].[Pd:1]|(2, 1)",34,6,reaction_14,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:2])C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C=C(C)B(O)O.CC(C)C1=CC(C#N)=CC2=C1OC(C1=CC=C(C(=O)NCC3CCN(C4=CC=NC(Cl)=N4)CC3)C=C1)=N2.CC1=CC=CC=C1.CCO.O.O=C([O-])[O-].[Na+].[Na+]|(1, 2)",34,5,reaction_14,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:3][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C=C(C)B(O)O.CC(C)C1=CC(C#N)=CC2=C1OC(C1=CC=C(C(=O)NCC3CCN(C4=CC=N[C:1]([Cl:2])=N4)CC3)C=C1)=N2.CC1=CC=CC=C1.CCO.O.O=C([O-])[O-].[Na+].[Na+]|(3, 1);((1, 2), 3)",34,4,reaction_14,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C=C(C)B(O)O.CC(C)C1=CC(C#N)=CC2=C1OC(C1=CC=C(C(=O)NCC3CCN(C4=CC=N[C]([Pd-2:2]([P+](C5=CC=CC=C5)(C5=CC=CC=C5)C5=CC=CC=C5)([P+](C5=CC=CC=C5)(C5=CC=CC=C5)C5=CC=CC=C5)[Cl:3])=N4)CC3)C=C1)=N2.CC1=CC=CC=C1.CCO.O.O=C([O-])[O-:4].[Na+:1].[Na+]|(4, 2);((2, 3), 1)",34,3,reaction_14,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C=[C:1](C)[B:2](O)O.CC(C)C1=CC(C#N)=CC2=C1OC(C1=CC=C(C(=O)NCC3CCN(C4=CC=N[C]([Pd-2:3]([O]C(=O)[O-])([P+](C5=CC=CC=C5)(C5=CC=CC=C5)C5=CC=CC=C5)[P+](C5=CC=CC=C5)(C5=CC=CC=C5)C5=CC=CC=C5)=N4)CC3)C=C1)=N2.CC1=CC=CC=C1.CCO.O.[Na+].[Na][Cl]|(3, 1);((1, 2), 3)",34,2,reaction_14,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C=[C](C)[Pd-2:1]([C]1=NC=CC(N2CCC(CNC(=O)C3=CC=C(C4=NC5=CC(C#N)=CC(C(C)C)=C5O4)C=C3)CC2)=N1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([O:2]C(=O)[O-])[B:3](O)O.CC1=CC=CC=C1.CCO.O.[Na+].[Na][Cl]|((1, 2), 3);((3, 1), 1)",34,1,reaction_14,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C=[C:1](C)[Pd-2:2]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:3]1=NC=CC(N2CCC(CNC(=O)C3=CC=C(C4=NC5=CC(C#N)=CC(C(C)C)=C5O4)C=C3)CC2)=N1.CC1=CC=CC=C1.CCO.O.O=C([O-])OB(O)O.[Na+].[Na][Cl]|((2, 3), 1);((1, 2), 2)",34,0,reaction_14,USPTO_suzuki,train
